US08686005B2
2-{4-[3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methylsulfanyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
A mixture of the 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (542 mg, 1.0 mmol), 1-chloro-2-methylsulfanyl-ethane (122 mg, 1.1 mmol), Na2CO3 (318 mg, 3.0 mmol) and NaI (150 mg, 1.0 mmol) in CH3CN (20 mL) was heated at 100° C. for 22 h and then evaporated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (200:10:1) afforded the title compound. 1H NMR (DMSO-d6) δ 1.69-1.82 (4H), 2.09 (s, 3H, CH3), 2.09 (m, 2H), 2.19 (s, 3H, CH3), 2.20 (s, 3H, CH3), 2.50-2.59 (4H), 3.00 (m, 2H), 3.38 (m, 2H), 3.53 (m, 1H), 3.70 (m, 1H), 3.98-4.08 (3H), 4.15 (m, 1H), 4.43 (s, 1H), 4.47 (s, 1H), 5.47 (br s, 0.5H, NH), 5.53 (br s, 0.5H, NH), 6.20 (m, 1H), 6.80-6.99 (3H), 7.30-7.36 (1.5H), 7.68 (s, 0.5H), 7.79 (s, 0.5H), 7.94 (s, 0.5H), 11.15 (br d, J=6 Hz, 1H, NH), 11.21 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 617.5 (MH+).

reactant | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 1.0 mmol, 542 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | 1-chloro-2-methylsulfanyl-ethane | 1.1 mmol, 122 mg | ClCCSC | C3H7ClS
reactant | Na2CO3 | 3.0 mmol, 318 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 1.0 mmol, 150 mg | [Na+].[I-]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 2-{4-[3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methylsulfanyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | CC1=C(OCC(CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)CCSC)O)C=CC(=C1)C | C33H40N6O4S
